US04650902
2-Oxocyclohexylsulfonic acid cyclohexylamide
20.8 g (0.105 mol) of cyclohexylaminosulfonyl chloride in 60 ml of tetrahydrofuran were added dropwise, over a period of 2 hours, at -50° C., to a solution of 16.7 g (0.1 mol) of morpholinocyclohex-1-ene and 10.6 g (0.105 mol) of triethylamine in 150 ml of tetrahydrofuran, the mixture was brought to 20° C. over a period of 4 hours and filtered, the filtrate was evaporated to dryness in vacuo and the residue was chromatographed on 80 g of silica gel with methylene chloride. After crystallization from diisopropyl ether, the main fraction yielded 14.9 g (57.4%) of colorless crystals of melting point 105°-109° C.

reactant | cyclohexylaminosulfonyl chloride | 0.105 mol, 20.8 g | C1(CCCCC1)NS(=O)(=O)Cl | C6H12ClNO2S
reactant | morpholinocyclohex-1-ene | 0.1 mol, 16.7 g | O1CCN(CC1)C1=CCCCC1 | C10H17NO
reactant | triethylamine | 0.105 mol, 10.6 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-Oxocyclohexylsulfonic acid cyclohexylamide | 14.9 g, 57.4% | C1(CCCCC1)NS(=O)(=O)C1C(CCCC1)=O | C12H21NO3S
